US07459562B2
To a solution of tert-butyl 4-((2-(3-(dimethylamino)propylamino)pyridin-4-yl)(hydroxy)methyl)phenylcarbamate (16 mg, 0.04 mmol) in 1 mL of DCM were added Et3SiH (0.1 mL)/TFA in DCM (10%, 0.2 mL). The mixture was stirred for 1 hr and no reaction was detected by LC-MS. Another 0.1 mL of Et3SiH and 0.8 mL of TFA in DCM (10%) were added and the mixture was stirred for 2 h. The solvent was removed and was purified by solid extraction (Waters Oasis®MCX extraction cartridge) to give (4-aminophenyl)(2-(3-(dimethylamino)propylamino)pyridin-4-yl)methanol (6.0 mg, 50% yield). MS(ESI+): m/z 301.40 (M+H)+.

reactant | tert-butyl 4-((2-(3-(dimethylamino)propylamino)pyridin-4-yl)(hydroxy)methyl)phenylcarbamate | 0.04 mmol, 16 mg | CN(CCCNC1=NC=CC(=C1)C(C1=CC=C(C=C1)NC(OC(C)(C)C)=O)O)C | C22H32N4O3
reactant | Et3SiH | 0.1 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Et3SiH | 0.1 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | TFA | 0.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.2 mL | C(Cl)Cl | CH2Cl2
product | (4-aminophenyl)(2-(3-(dimethylamino)propylamino)pyridin-4-yl)methanol | 6.0 mg, 50% yield | NC1=CC=C(C=C1)C(O)C1=CC(=NC=C1)NCCCN(C)C | C17H24N4O
